US07354933B2
500 mg (1.11 mmol) of N-{4-[5,5-dimethyl-2,4-dioxo-3-(4-trifluoromethylsulfanylphenyl)imidazolidin-1-ylmethyl]pyrid-2-yl}acetamide are dissolved in MeOH, 1.5 mmol of NaOMe are added and the resulting mixture is refluxed for 4 hours. The solvent is removed, the residue is taken up in CH2Cl2 and washed twice with 10% NaHCO3 solution and with water, and the organic phase is evaporated off. 340 mg (75%) of 1-(2-aminopyrid-4-ylmethyl)-5,5-dimethyl-3-(4-trifluoromethylsulfanylphenyl)imidazolidine-2,4-dione are isolated in this manner.

reactant | N-{4-[5,5-dimethyl-2,4-dioxo-3-(4-trifluoromethylsulfanylphenyl)imidazolidin-1-ylmethyl]pyrid-2-yl}acetamide | 1.11 mmol, 500 mg | CC1(C(N(C(N1CC1=CC(=NC=C1)NC(C)=O)=O)C1=CC=C(C=C1)SC(F)(F)F)=O)C | C20H19F3N4O3S
reactant | NaOMe | 1.5 mmol | C[O-].[Na+]
solvent | MeOH | CO | CH4O
product | 1-(2-aminopyrid-4-ylmethyl)-5,5-dimethyl-3-(4-trifluoromethylsulfanylphenyl)imidazolidine-2,4-dione | 340 mg, 75% | NC1=NC=CC(=C1)CN1C(N(C(C1(C)C)=O)C1=CC=C(C=C1)SC(F)(F)F)=O | C18H17F3N4O2S
